US07579488B2
G. Trifluoromethanesulfonic acid 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-6-yl ester.
A solution of 1-{4-[1-ethyl-1-(6-hydroxy-benzofuran-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one (4.35 g, 10.6 mmol) and 2,6-lutidine (2.48 mL, 21.3 mmol) in CH2Cl2 (100 mL) at −78° C. is added trifluoromethanesulfonic anhydride (2.69 mL, 15.9 mmol). The resulting mixture is stirred while allowed to warmed up to 0° C. over 60 min. The reaction is quenched with water (25 mL) and the aqueous layer is extracted with CH2Cl2 (100 mL). The combined organic layer is dried over Na2SO4, concentrated and purified on column chromatography (10% EtOAc/Hex) to afford the title compound (4.95 g, 86%).

reactant | 1-{4-[1-ethyl-1-(6-hydroxy-benzofuran-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 10.6 mmol, 4.35 g | C(C)C(CC)(C=1OC2=C(C1)C=CC(=C2)O)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C | C26H32O4
reactant | 2,6-lutidine | 21.3 mmol, 2.48 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 15.9 mmol, 2.69 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-6-yl ester | 4.95 g, 86% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1OC2=C(C1)C=CC(=C2)OS(=O)(=O)C(F)(F)F)C)=O)(C)C | C27H31F3O6S
